US06747176B2
A 1000 ml flask equipped with a stirrer and gas inlet tube was initially charged at 10° C. with 480 g (4 mol) of 1,1,1-trimethoxyethane. Within 4 hours, 220 g (3.14 mol) of chlorine were introduced into the flask in gaseous form, and the internal temperature of the flask did not rise above 15° C. Once the entire amount of chlorine had been introduced into the flask, the mixture was worked-up by distillation. A distillation apparatus having approx. 5 theoretical plates was used to remove low boilers such as methanol and methyl acetate in the first stages at a reflux ratio of 5:1. In the main fraction, 413 g of 2-chloro-1,1,1-trimethoxyethane in a purity of >99.0% were obtained at a reflux ratio of 2:1. This amount of product corresponds to a yield of approx. 67%.

reactant | 1,1,1-trimethoxyethane | 4 mol, 480 g | COC(C)(OC)OC | C5H12O3
reactant | chlorine | 3.14 mol, 220 g | ClCl | Cl2
product | 2-chloro-1,1,1-trimethoxyethane | 413 g, yield of approx. 67% | ClCC(OC)(OC)OC | C5H11ClO3
